US05489593
1-[1,1-Dimethylethoxycarbony]-4-(2-nitrophenyl)piperazine
Di-t-butyldicarbonate (5.24 g) is added to a 0° solution of 1-(2-nitrophenyl)piperazine (PREPARATION 11, 5.0 g) and triethylamine (3.7 ml) in methylene chloride (48 ml). The reaction is warmed to 20°-25° after 20 min and stirred 3.5 hr. Then the reaction is diluted with methylene chloride, washed with saturated aqueous sodium bicarbonate, saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound.

reactant | Di-t-butyldicarbonate | 5.24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(2-nitrophenyl)piperazine | 5.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | triethylamine | 3.7 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 48 ml | C(Cl)Cl | CH2Cl2
product | 1-[1,1-Dimethylethoxycarbony]-4-(2-nitrophenyl)piperazine | CC(C)(OC(=O)N1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-])C | C15H21N3O4
